US08242125B2
5-[6-(3,3-Dimethyl-ureidomethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To a solution of 5-(6-aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (50 mg, 0.12 mmol), THF (5 mL), and dimethylcarbamyl chloride (50 mg) is added triethylamine (50 mg). After 10 min the solution is partitioned between EtOAc and water. The organic layer is separated and washed further with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the title compound.

reactant | 5-(6-aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.12 mmol, 50 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN)(F)F | C21H16F3N5O2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | dimethylcarbamyl chloride | 50 mg | CN(C(=O)Cl)C | C3H6ClNO
solvent | triethylamine | 50 mg | C(C)N(CC)CC | C6H15N
product | 5-[6-(3,3-Dimethyl-ureidomethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CNC(=O)N(C)C)(F)F | C24H21F3N6O3
